US07129238B2
In analogy to example 16.4, (RS)-N-(4-cyano-benzyl)-2-(4-hydroxy-phenyl)-2-methoxy-acetamide was alkylated with ethyl iodide/cesium carbonate in DMF to give (RS)-N-(4-cyano-benzyl)-2-(4-ethoxy-phenyl)-2-methoxy-acetamide as a colorless solid. MS 325.3 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-(4-hydroxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC=C(C=C2)O)=O)C=C1 | C17H16N2O3
reactant | ethyl iodide cesium carbonate | C(C)I.C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (RS)-N-(4-cyano-benzyl)-2-(4-ethoxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC=C(C=C2)OCC)=O)C=C1 | C19H20N2O3
